US05972937
1-(2-Dimethylaminoethoxy)-3-nitrobenzene
To a stirred soluton of 3-nitrophenol (5 g, 36 mmol) in dimethylformamide (100 ml) at 0° C. was added sodium hydride (1.029 g, 80% dispersion in mineral oil, 34.3 mmol). After the effervescence had subsided 2-dimethylaminoethyl chloride was added (5.746 g, 37.8 mmol). After 1 hour the reaction mixture was allowed to warm to room temperature. After a further 2 hours the reaction mixture was heated to 70° C. for 14 hours, then evaporated under reduced pressure. The residue was then partitioned between water and ethyl acetate and the organic phase washed twice with aqueous sodium hydroxide solution (SM) and then saturated aqueous sodium chloride solution. Drying and evaporation gave the product as a brown oil (4.64 g, 61%)

reactant | 3-nitrophenol | 36 mmol, 5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | sodium hydride | 34.3 mmol, 1.029 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-Dimethylaminoethoxy)-3-nitrobenzene | 4.64 g, 61% | CN(CCOC1=CC(=CC=C1)[N+](=O)[O-])C | C10H14N2O3
